US06670373B1
To a solution of 2-chloro-6-fluorobenzaldehyde oxime (5.13 g, 29.6 mmol) in DMF (50 ml) was added a portion of N-chlorosuccinimide followed by a syringe of HCl gas (5 ml from the vapors of a conc. HCl solution). The temperature increased slightly and the rest of the N-chlorosuccinimide (total of 4.07 g, 30.5 mmol) was added. After stirring at room temperature for 1 h, ice was added and the mixture was extracted twice with diethyl ether. The combined organic fractions were washed (brine), dried (MgSO4), filtered, and concentrated. Column chromatography (silica gel, hexane/Et2O gradient) gave 2-chloro-6-fluorobenzoylchloride oxime (4.83 g, 78%).

reactant | 2-chloro-6-fluorobenzaldehyde oxime | 29.6 mmol, 5.13 g | ClC1=C(C=NO)C(=CC=C1)F | C7H5ClFNO
reactant | N-chlorosuccinimide | ClN1C(CCC1=O)=O | C4H4ClNO2
reactant | HCl | Cl | ClH
reactant | N-chlorosuccinimide | 30.5 mmol, 4.07 g | ClN1C(CCC1=O)=O | C4H4ClNO2
solvent | DMF | 50 ml | CN(C)C=O | C3H7NO
product | 2-chloro-6-fluorobenzoylchloride oxime | 4.83 g, 78% | ClC1=C(C(Cl)=NO)C(=CC=C1)F | C7H4Cl2FNO
